US07582775B2
D. 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-2-carboxylic acid ethyl ester
5-(1-Ethyl-propenyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester (5.50 g, 20.0 mmol), o-cresol (4.33 g, 40.0 mmol), and BF3-Et2O (10 mL) are reacted analogous to Example 1C to afford the title compound (5.97 g, 78%).

reactant | 5-(1-Ethyl-propenyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester | 20.0 mmol, 5.50 g | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C(=CC)CC | C16H18O2S
reactant | o-cresol | 40.0 mmol, 4.33 g | C1(=CC=CC=C1O)C | C7H8O
solvent | BF3 Et2O | 10 mL | B(F)(F)F.CCOCC
product | 5-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzo[b]thiophene-2-carboxylic acid ethyl ester | 5.97 g, 78% | C(C)OC(=O)C1=CC2=C(S1)C=CC(=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C23H26O3S
